US08012998B2
d) (3SR,4RS)-1-Benzyl-3-(3.4-dichloro-phenyl)-4-vinyl-pyrrolidine
To a suspension of methyltriphenylphosphonium iodide (5.53 g, 0.0136 mol) in THF (50 mL) was added n-BuLi (1.6N in heptane, 6.5 mL, 0.0104 mol) dropwise at 0° C. and stirred for one hour. To this reaction mixture was added a solution of (3RS,4SR)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidine-3-carbaldehyde 2.68 g (0.008 mol) in THF (15 mL) dropwise at 0° C. and stirred for another one hour. The reaction was quenched by aq. ammonium chloride solution and extracted with ethylacetate. The separated organic layer was dried on anhydrous sodium sulfate and concentrated in vaccuo. The residue was purified by silica gel column chromatography eluted by a mixture of heptane and ethyl acetate (4: 1) yielding 2.12 g (80%) of the title compound as a light yellow oil. ES-MS m/e: 332.1 (M+H+).

reactant | methyltriphenylphosphonium iodide | 0.0136 mol, 5.53 g | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 0.0104 mol, 1.6N, 6.5 mL | [Li]CCCC
reactant | (3RS,4SR)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidine-3-carbaldehyde | 0.008 mol, 2.68 g | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)C=O | C18H17Cl2NO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (3SR,4RS)-1-Benzyl-3-(3.4-dichloro-phenyl)-4-vinyl-pyrrolidine | 2.12 g, 80% | C(C1=CC=CC=C1)N1CC(C(C1)C=C)C1=CC(=C(C=C1)Cl)Cl | C19H19Cl2N
